US07507740B2
Production of 4-{[4-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]methyl}benzoic acid
Methyl 4-{[4-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]methyl}benzoate (850 mg) was dissolved in a mixed solvent of ethanol (3.29 mL)/tetrahydrofuran (3.29 mL), 1N aqueous sodium hydroxide solution (3.29 mL) was added, and the mixture was stirred at room temperature for 20 hrs. 1N Hydrochloric acid (3.29 mL) was added to the reaction mixture and the mixture was diluted with water (20 mL). The precipitated crystals were collected by filtration, washed with water (10 mL), and dried under reduced pressure to give the title compound (738 mg).

reactant | Methyl 4-{[4-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]methyl}benzoate | 850 mg | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC=1C2=C(N=CN1)C=CN2CC2=CC=C(C(=O)OC)C=C2 | C28H22ClFN4O3
reactant | Hydrochloric acid | 1N, 3.29 mL | Cl | ClH
solvent | ethanol | 3.29 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 3.29 mL | O1CCCC1 | C4H8O
solvent | sodium hydroxide | 1N, 3.29 mL | [OH-].[Na+]
solvent | water | 20 mL | O | H2O
product | 4-{[4-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]methyl}benzoic acid | 738 mg | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC=1C2=C(N=CN1)C=CN2CC2=CC=C(C(=O)O)C=C2 | C27H20ClFN4O3
